2200-09-18 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint
   Over the past 24 hours, there was a dramatic change in mental status
   from somnolent to agitated and paranoid.  Respiratory status improved
   significantly as the patient is not satting over 95% on RA.  The
   patient has been extremely paranoid all night, thinking that "everyone
   is trying to kill her" constantly screaming, in soft restraints x2.
   She was tring to pull the lines.   Re-started patient
s Abilify and
   Risperidal, which were held perio-operatively.  The patient aslo got
   total 1.75mg Haldol O/N for agitation.  Oxybutinin was held due for
   anti-chol effects and concerns for delirium.
   Lovenox was discontinued per Heme recs due to poor renal function and
   the pt. was started on IV Heparin for anticoagulation bridge to
   Coumadin for post-operative prophylaxis x 3 weeks with INR goal
   1.8-2.2.
   -
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2200-9-18**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 93 (72 - 93) bpm
   BP: 139/68(95) {91/53(68) - 204/124(154)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102.5 kg
   Height: 72 Inch
             Total In:
                                                                  2,586 mL
                                                                  1,144 mL
   PO:
                                                                    500 mL
                                                                    225 mL
   TF:
   IVF:
                                                                  2,086 mL
                                                                    919 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    460 mL
   Urine:
                                                                    585 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                     50 mL
   Balance:
                                                                  1,851 mL
                                                                    687 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.27/66/56/24/0
   Physical Examination
   GENERAL: Pt. appears extremely agitated, but in NAD, not allowing a
   full exam.
   HEENT: Normocephalic, atraumatic.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: Left knee wrapped, 3+ LLE edema.
   NEURO: Very agitated; refusing to state moves all extremities.
   Labs / Radiology
   135 K/uL
   8.4 g/dL
   133 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   35 mg/dL
   112 mEq/L
   143 mEq/L
   26.4 %
   7.9 K/uL
        [image002.jpg]
                            [**2200-9-17**]  09:51 AM
                            [**2200-9-17**]  11:26 AM
                            [**2200-9-17**]  01:45 PM
                            [**2200-9-17**]  05:05 PM
                            [**2200-9-17**]  06:33 PM
                            [**2200-9-17**]  08:10 PM
                            [**2200-9-18**]  03:47 AM
   WBC
   6.3
   7.2
   7.9
   Hct
   30
   28.6
   27.1
   26.4
   Plt
   139
   152
   135
   Cr
   2.4
   2.5
   2.7
   TCO2
   31
   34
   32
   Glucose
   135
   124
   133
   Other labs: PT / PTT / INR:18.5/150.0/1.7, ALT / AST:29/70, Alk Phos /
   T Bili:142/0.1, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:9.0 %,
   Eos:0.8 %, Lactic Acid:2.0 mmol/L, LDH:248 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   U/A: WBC 25, Leuk: Large, Bact: Few, Epi: 0
   Assessment and Plan
   73y/o with Dementia, Parkinsons, Schizophrenia vs Schizo-affective
   disorder, HTN CKD III, h/o DVT admitted [**9-16**] for elective left total
   knee replacement.  Transferred to [**Hospital Unit Name 44**] due to somnolence and acute
   respiratory failure, which has since resolved.
   .
   # Acute respiratory failure: Resolved, currently satting well on RA,
   breathing without any labor.
   - F/u ABG now that the respiratory failure has resolved to assure
   resolved hypercarbia.
   - Encourage incentive spirometry
   - Oxygen NC as needed
   .
   #  Agitation:  Pt. currently agitated, likely a combination of baseline
   dementia and Schizophrenia, with held antipsychotic meds, and delirium
   (post-operative vs. UTI). The patient is currently refusing to take her
   PO meds.  Since delirium may have been precipitated by UTI, will start
   treatment for complicated UTI in this elderly woman with IV Ceftriaxone
   for 7 days.  Will not use Cipro due to high risk of QTc prolongation.
   - Low dose Ulltram for pain control
   - Appreciate psych recs
   - Zyprexa IM standing and PRN for agitation
   - F/u EKG QTc
   - Restart home antipsychotic meds as soon as possible
   - IV Ceftriaxone for UTI
   - F/u Urine Culture
   .
   # Left knee replacement: dressing changed today
   - f/u ortho recs
   - CPM 0-60
   -Transfuse 1 units pRBC with IV access
   .
   # Dementia/MDD/Parkinsons:
   - restart home meds when the patient
s agitation has resolved
   .
   # Hypernatremia:  History of DI secondary to Lithium.  Hypernatremia
   has resolved.
   - Continue to trend Na
   - Switch IVF to D51/2NS at 75 cc/hr
   .
   # ? Afib/HTN/history of PE:  Currently in sinus rhythm, but
   hypertensive
   - Use IV Hydralazine PRN to control blood pressure while the pt. is
   refusing PO meds.
   - Continue anticoagulation with coumadin with INR goal 1.8-2.2 for 3
   weeks post-operatively.  D/c IV Heparin at this point as the patient is
   therapeutic on Coumadin.
   -Re-start home Lisinopril and Metoprolol whenever the patient is
   accepting PO meds.
   .
   # CKD:  Recent Cr baseline 1.9.  Continues to slowly trend up to 2.7.
   Will check urine lytes to determine etiology and re-check kidney
   function in PM.
   - renally dose meds/avoid nephrotoxins/trend
   .
   FEN:  Currently full liquids.  Advance to regular diet;  replete lytes
   prn
   .
   PPX:
   -DVT ppx with Coumadin
   -Bowel regimen PPI
   .
   ACCESS: PIV'
   .
   CODE STATUS: FULL CODE
   .
   EMERGENCY CONTACT:
   .
   DISPOSITION:  ICU for now while agitated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-9-17**] 09:07 AM
   Arterial Line - [**2200-9-17**] 06:56 PM
   Prophylaxis:
   DVT:  coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-09-18 11:28:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Progressively aggitated overnight, paranoid, yelling out, verbally
   abussive and throwing items at medical personnel.
   Refusing all PO medications.
   Psychiatry Consulation in progress.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Psychotic
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2200-9-18**] 09:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Left leg pain
   (surgical site)
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-18**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 86 (72 - 98) bpm
   BP: 154/79(108) {91/53(68) - 204/124(154)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 102.5 kg
   Height: 72 Inch
          Total In:
                                                                  2,586 mL
                                                                  1,778 mL
   PO:
                                                                    500 mL
                                                                    225 mL
   TF:
   IVF:
                                                                  2,086 mL
                                                                  1,203 mL
   Blood products:
   350 mL
   Total out:
                                                                    735 mL
                                                                    710 mL
   Urine:
                                                                    585 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                     50 mL
   Balance:
                                                                  1,851 mL
                                                                  1,070 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.27/66/56/24/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 2+, No(t) Cyanosis, Clubbing, Left leg with surgical dressing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   135 K/uL
   133 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   35 mg/dL
   112 mEq/L
   143 mEq/L
   26.4 %
   7.9 K/uL
        [image002.jpg]
                            [**2200-9-17**]  09:51 AM
                            [**2200-9-17**]  11:26 AM
                            [**2200-9-17**]  01:45 PM
                            [**2200-9-17**]  05:05 PM
                            [**2200-9-17**]  06:33 PM
                            [**2200-9-17**]  08:10 PM
                            [**2200-9-18**]  03:47 AM
   WBC
   6.3
   7.2
   7.9
   Hct
   30
   28.6
   27.1
   26.4
   Plt
   139
   152
   135
   Cr
   2.4
   2.5
   2.7
   TCO2
   31
   34
   32
   Glucose
   135
   124
   133
   Other labs: PT / PTT / INR:22.0/131.8/2.1, ALT / AST:29/70, Alk Phos /
   T Bili:142/0.1, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:9.0 %,
   Eos:0.8 %, Lactic Acid:2.0 mmol/L, LDH:248 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  Acute on chronic failure.  Improved.
   attributed to narcotics, atalectasis on background of chronic lung
   disease.  Need to consider possibility of aspiration pneumonitis.
   Monitor RR, SaO2, ABG as indicated.  Use BiPAP as indicated to maintain
   ventilation.
   HYPOXEMIA --  attributed to hypoventilation.  Need to consider
   thromboembolic disease.  Check LENIVS once dressing removed.  Monitor
   SaO2, maintain 89-92%.
   ALTERED MENTAL STATUS
 attributed to medications (narcotics) and
   hypercapnia.
   PSYCHOSIS
 Marked worsening overnight.  Underlying Psychiatric disease
   (off medications), although at risk for post-operative delerium, ICU
   psychosis.  Psychiatry Evaluation in progress.  Using prn Haldol for
   management, prn zyprexa as per Psychiatry.  Hopefully will improve with
   reinstitution of usual medications.
   FLUIDS -- euvolemic.  Provide iv maintenance fluid.
   HYPERNATREMIA
 free water deficit.  Improved with free water
   repletion, monitor Na, goal to <148.
   RENAL INSUFFICIENCY
 chronic, baseline creatinine.
   LEFT TKR -- Orthopedics Team to follow.  Monitor for bleeding.
   Optimize pain regimen.  Per Hematology and Ortho, continue coumadin
   (may need heparin if unable to take PO and PT INR falls below goal
   1.8-2.0) for DVT prophylaxis in post-op period.
   h/o DVT, RECURRENT
 resume coumadin as per Orthopedic team.
   NUTRITIONAL SUPPORT
 NPO while evaluation in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-9-17**] 09:07 AM
   Arterial Line - [**2200-9-17**] 06:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-09-19 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient recieved 5 IV metoprolol and 20 mg IV hydral in afternoon for
   SBP > 170
   - zyprexa 5 mg q6h IM prn started for agitation
   - IV access
   - ABG 7.40/42/97
   - INR was 2.1 -> 2.8 (already off of heparin gtt)
   - CTX started for UTI, UCX is pending
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2200-9-18**] 12:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2200-9-18**] 09:48 AM
   Pantoprazole (Protonix) - [**2200-9-18**] 11:50 AM
   Metoprolol - [**2200-9-18**] 12:59 PM
   Hydralazine - [**2200-9-18**] 01:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 86 (82 - 117) bpm
   BP: 166/86(118) {133/63(89) - 187/101(134)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.8 kg (admission): 102.5 kg
   Height: 72 Inch
                  Total In:
                                                                  2,194 mL
                                                                    320 mL
   PO:
                                                                    385 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,459 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,800 mL
                                                                  1,110 mL
   Urine:
                                                                  1,750 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                    394 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.40/42/96.[**Numeric Identifier 244**]/26/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   9.3 g/dL
   100 mg/dL
   2.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   111 mEq/L
   144 mEq/L
   27.5 %
   8.6 K/uL
        [image002.jpg]
                            [**2200-9-17**]  11:26 AM
                            [**2200-9-17**]  01:45 PM
                            [**2200-9-17**]  05:05 PM
                            [**2200-9-17**]  06:33 PM
                            [**2200-9-17**]  08:10 PM
                            [**2200-9-18**]  03:47 AM
                            [**2200-9-18**]  11:27 AM
                            [**2200-9-18**]  12:16 PM
                            [**2200-9-18**]  02:55 PM
                            [**2200-9-19**]  03:42 AM
   WBC
   6.3
   7.2
   7.9
   8.6
   Hct
   28.6
   27.1
   26.4
   27.7
   27.5
   Plt
   139
   152
   135
   162
   Cr
   2.4
   2.5
   2.7
   2.6
   2.9
   TCO2
   34
   32
   27
   Glucose
   135
   124
   133
   109
   100
   Other labs: PT / PTT / INR:45.4/37.5/4.9, ALT / AST:29/70, Alk Phos / T
   Bili:142/0.1, Differential-Neuts:83.9 %, Lymph:7.8 %, Mono:7.5 %,
   Eos:0.7 %, Lactic Acid:2.0 mmol/L, LDH:248 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   73y/o with Dementia, Parkinsons, Schizophrenia vs Schizo-affective
   disorder, HTN CKD III, h/o DVT admitted [**9-16**] for elective left total
   knee replacement.  Transferred to [**Hospital Unit Name 44**] due to somnolence and acute
   respiratory failure, which has since resolved.
   .
   # Acute respiratory failure: Resolved, currently satting well on RA,
   breathing without any labor.
   - F/u ABG now that the respiratory failure has resolved to assure
   resolved hypercarbia.
   - Encourage incentive spirometry
   - Oxygen NC as needed
   .
   #  Agitation:  Pt. currently agitated, likely a combination of baseline
   dementia and Schizophrenia, with held antipsychotic meds, and delirium
   (post-operative vs. UTI). The patient is currently refusing to take her
   PO meds.  Since delirium may have been precipitated by UTI, will start
   treatment for complicated UTI in this elderly woman with IV Ceftriaxone
   for 7 days.  Will not use Cipro due to high risk of QTc prolongation.
   - Low dose Ulltram for pain control
   - Appreciate psych recs
   - Zyprexa IM standing and PRN for agitation
   - F/u EKG QTc
   - Restart home antipsychotic meds as soon as possible
   - IV Ceftriaxone for UTI
   - F/u Urine Culture
   .
   # Left knee replacement: dressing changed today
   - f/u ortho recs
   - CPM 0-60
   -Transfuse 1 units pRBC with IV access
   .
   # Dementia/MDD/Parkinsons:
   - restart home meds when the patient
s agitation has resolved
   .
   # Hypernatremia:  History of DI secondary to Lithium.  Hypernatremia
   has resolved.
   - Continue to trend Na
   - Switch IVF to D51/2NS at 75 cc/hr
   .
   # ? Afib/HTN/history of PE:  Currently in sinus rhythm, but
   hypertensive
   - Use IV Hydralazine PRN to control blood pressure while the pt. is
   refusing PO meds.
   - Continue anticoagulation with coumadin with INR goal 1.8-2.2 for 3
   weeks post-operatively.  D/c IV Heparin at this point as the patient is
   therapeutic on Coumadin.
   -Re-start home Lisinopril and Metoprolol whenever the patient is
   accepting PO meds.
   .
   # CKD:  Recent Cr baseline 1.9.  Continues to slowly trend up to 2.7.
   Will check urine lytes to determine etiology and re-check kidney
   function in PM.
   - renally dose meds/avoid nephrotoxins/trend
   .
   FEN:  Currently full liquids.  Advance to regular diet;  replete lytes
   prn
   .
   PPX:
   -DVT ppx with Coumadin
   -Bowel regimen PPI
   .
   ACCESS: PIV'
   .
   CODE STATUS: FULL CODE
   .
   EMERGENCY CONTACT:
   .
   DISPOSITION:  ICU for now while agitated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-9-17**] 09:07 AM
   Arterial Line - [**2200-9-17**] 06:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-09-19 11:38:00 Physician Attending Progress Note
Chief Complaint: Psychosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Respiratory status much improved.
   Psychosis much improved, better controlled.
   Aggitation improved.  More cooperative.
   Taking all PO meds.
   BP better improved.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2200-9-18**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-9-18**] 11:50 AM
   Metoprolol - [**2200-9-18**] 12:59 PM
   Hydralazine - [**2200-9-18**] 01:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, left leg with
   surgical dressing
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-19**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (79 - 117) bpm
   BP: 169/77(111) {133/63(89) - 187/101(134)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.8 kg (admission): 102.5 kg
   Height: 72 Inch
                  Total In:
                                                                  2,194 mL
                                                                    320 mL
   PO:
                                                                    385 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,459 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,800 mL
                                                                  1,360 mL
   Urine:
                                                                  1,750 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                    394 mL
                                                                 -1,040 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.40/42/96.[**Numeric Identifier 244**]/26/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   162 K/uL
   100 mg/dL
   2.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   111 mEq/L
   144 mEq/L
   27.5 %
   8.6 K/uL
        [image002.jpg]
                            [**2200-9-17**]  11:26 AM
                            [**2200-9-17**]  01:45 PM
                            [**2200-9-17**]  05:05 PM
                            [**2200-9-17**]  06:33 PM
                            [**2200-9-17**]  08:10 PM
                            [**2200-9-18**]  03:47 AM
                            [**2200-9-18**]  11:27 AM
                            [**2200-9-18**]  12:16 PM
                            [**2200-9-18**]  02:55 PM
                            [**2200-9-19**]  03:42 AM
   WBC
   6.3
   7.2
   7.9
   8.6
   Hct
   28.6
   27.1
   26.4
   27.7
   27.5
   Plt
   139
   152
   135
   162
   Cr
   2.4
   2.5
   2.7
   2.6
   2.9
   TCO2
   34
   32
   27
   Glucose
   135
   124
   133
   109
   100
   Other labs: PT / PTT / INR:45.4/37.5/4.9, ALT / AST:29/70, Alk Phos / T
   Bili:142/0.1, Differential-Neuts:83.9 %, Lymph:7.8 %, Mono:7.5 %,
   Eos:0.7 %, Lactic Acid:2.0 mmol/L, LDH:248 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --   Improved.  attributed to narcotics,
   atalectasis on background of chronic lung disease.  Practice cautious
   use of narcotics.
   HYPOXEMIA --  attributed to hypoventilation.  Need to consider
   thromboembolic disease.  Excellent ABG.
   ALTERED MENTAL STATUS
 attributed to medications (narcotics) and
   hypercapnia.
   PSYCHOSIS
 Marked improvement.  Continue usual meds, including zyprexa
   as per Psychiatry.
   FLUIDS -- euvolemic.  Provide iv maintenance fluid.
   HYPERNATREMIA
  Improved with free water repletion, monitor Na, goal
   to <148.
   RENAL INSUFFICIENCY
 chronic, baseline creatinine.
   LEFT TKR -- Orthopedics Team to follow.  Monitor for bleeding.
   Optimize pain regimen.  Per Hematology and Ortho, continue coumadin
   (may need heparin if unable to take PO and PT INR falls below goal
   1.8-2.0) for DVT prophylaxis in post-op period.
   Elevated INR --  Above target INR>  likely drug-drug interaction.
   Monitor.  Aim for INR 1.8-2.2.
   h/o DVT, RECURRENT
 resume coumadin as per Orthopedic team.
   A-FIB --  monitor.
   NUTRITIONAL SUPPORT
 Encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-9-17**] 06:56 PM
   22 Gauge - [**2200-9-19**] 10:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill